US05571821
N-(4-Bromo-3-methyl-5-isoxazolyl)-5-(4-chlorobenzamidomethyl)thiophene-2-sulfonamide was prepared in the same manner as described in Example 2 from 5-amino-4-bromo-3-methylisoxazole and 5-(4-chloro-benzamidomethyl)thiophene-2-sulphonyl chloride in 27% yield. The crude product was passed through a silica gel column using hexanes/ethyl acetate as eluent. Purification was effected by recrystallization from ethyl acetate/hexanes to give a crystalline solid, m.p. 210° C. (dec).

reactant | 5-amino-4-bromo-3-methylisoxazole | NC1=C(C(=NO1)C)Br | C4H5BrN2O
reactant | 5-(4-chloro-benzamidomethyl)thiophene-2-sulphonyl chloride | ClC1=CC=C(C(=O)NCC2=CC=C(S2)S(=O)(=O)Cl)C=C1 | C12H9Cl2NO3S2
product | N-(4-Bromo-3-methyl-5-isoxazolyl)-5-(4-chlorobenzamidomethyl)thiophene-2-sulfonamide | 27% yield | BrC=1C(=NOC1NS(=O)(=O)C=1SC(=CC1)CNC(C1=CC=C(C=C1)Cl)=O)C | C16H13BrClN3O4S2
